US08614206B2
To a solution of 5-azido-3-methyl-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-3-ol (less polar pair of diastereoisomers) (115 mg, 0.53 mmol) in dry DMF (2 mL) at room temperature under nitrogen was added sodium hydride (25 mg, 0.63 mmol, 60% dispersion in oil) and the mixture was stirred at room temperature for 10 mins. Methyl iodide (0.05 mL, 0.80 mmol) was added and the mixture was stirred at room temperature for 1 hr. Ice-water (50 mL) was added and the mixture was extracted with EtOAc (2×25 mL). The combined organic layers were washed with brine (20 mL), separated, dried over MgSO4 and the solvent removed under reduced pressure. The residue was dissolved in THF (5 mL) and water (1 mL) and triphenylphosphine (102 mg, 0.39 mmol) was added. The reaction mixture was heated at 60° C. for 16 hr. The mixture was concentrated under reduced pressure. The residue was dissolved in DCM (10 mL) and DIPEA (0.2 mL, 1.15 mmol) and di-tert-butyldicarbonate (170 mg, 0.78 mmol) were added. The mixture was stirred at room temperature for 3 hr then washed with saturated NaHCO3 (15 mL). The organic layer was passed through a phase separation cartridge and the solvent removed under reduced pressure. Purification via silica gel column chromatography (0-100% EtOAc/isohexane) gave tert-butyl 6-methoxy-6-methyl-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-4-ylcarbamate (less polar pair of diastereoisomers) as a pale orange gum (118 mg, 79% over three steps). 1H NMR (400 MHz, CDCl3) δ 8.02 (s, 1H), 4.55 (br s, 1H), 4.20-4.10 (m, 1H), 3.88 (s, 3H), 3.45-3.25 (m, 2H), 3.20 (s, 3H), 3.20-2.95 (m, 2H), 2.30-2.10 (m, 2H), 1.80-1.50 (m, 2H), 1.45 (s, 9H), 1.08 (s, 3H). LCMS (ES+) m/z 384 (M+1).

reactant | 5-azido-3-methyl-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-3-ol | N(=[N+]=[N-])C1CC(CN(CC1)C1=C(C=NN1C)[N+](=O)[O-])(O)C | C11H17N7O3
reactant | sodium hydride | 0.63 mmol, 25 mg | [H-].[Na+]
reactant | Methyl iodide | 0.80 mmol, 0.05 mL | CI | CH3I
reactant | triphenylphosphine | 0.39 mmol, 102 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIPEA | 1.15 mmol, 0.2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | di-tert-butyldicarbonate | 0.78 mmol, 170 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | 1 mL | O | H2O
product | tert-butyl 6-methoxy-6-methyl-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-4-ylcarbamate | COC1(CC(CCN(C1)C1=C(C=NN1C)[N+](=O)[O-])NC(OC(C)(C)C)=O)C | C17H29N5O5
